US05708001
F. 17β-Carboxy-6-t-butoxycarbonyl-6-azaandrost-4-en-3-one
A solution of 17β-carbomethoxy-6-t-butoxycarbonyl-6-azaandrost-4-en-3-one (15.4 g, 36 mmol), from part E, in dioxane (150 mL) and water (100 mL) is treated with LiOH.H2O (3.31 g, 79 mmol) and stirred overnight in a water bath. The reaction is poured into saturated aqueous NaHSO4 (150 mL), extracted with methylene chloride (3×100 mL), extracts washed with saturated aqueous NaCl, dried over MgSO4 and concentrated to a volume of 100 mL. At this point crystals begin to form and 2:1 hexanes/ethyl acetate (50 mL) is added, the mixture triturated, cooled to room temperature and 17β-carboxy-6-t-butoxycarbonyl-6-azaandrost-4-en-3-one collected as a fluffy white powder; yield: 9.44 g (63%); m.p. 215°-216° C. Anal. Calcd. for C24H35NO5.1/4H2O; C, 68.30; H, 8.48; N, 3.32. Found: C, 68.45; H, 8.41; N, 3.28.

reactant | 17β-carbomethoxy-6-t-butoxycarbonyl-6-azaandrost-4-en-3-one | 36 mmol, 15.4 g | C(=O)(OC)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)OC(C)(C)C | C25H37NO5
reactant | water | 100 mL | O | H2O
reactant | LiOH.H2O | 79 mmol, 3.31 g | O[Li].O
reactant | NaHSO4 | 150 mL | OS(=O)(=O)[O-].[Na+]
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 17β-Carboxy-6-t-butoxycarbonyl-6-azaandrost-4-en-3-one | C(=O)(O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)OC(C)(C)C | C24H35NO5
